US06455572B1
7-Benzyloxy-6-methoxy-3,4-dihydro-2H-naphthalen-1-one
A mixture of 4.5 g (0.0233 mole) of 7-hydroxy-6-methoxy-1-tetralone, 5.4 g (0.032 mole) of benzyl bromide and 10 g (0.072 mole) of K2CO3 in 150 ml of acetone was heated to reflux overnight. The reaction as cooled, poured into water and extracted with EtOAc. The EtOAc was dried over Na2SO4 and evaporated to give 7 g of crude product. Crystallization with Et2O gave 4.13 g of product as a white solid, mp 110-111° C.

reactant | 7-hydroxy-6-methoxy-1-tetralone | 0.0233 mole, 4.5 g | OC1=C(C=C2CCCC(C2=C1)=O)OC | C11H12O3
reactant | benzyl bromide | 0.032 mole, 5.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 0.072 mole, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 7-Benzyloxy-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 4.13 g | C(C1=CC=CC=C1)OC1=C(C=C2CCCC(C2=C1)=O)OC | C18H18O3
